US08445501B2
(R)-3-{[4-(2-Cyclopropylmethoxy-4-fluoro-5-methoxy-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester
Starting from 4-(2-cyclopropylmethoxy-4-fluoro-5-methoxy-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (example A79) and (R)-3-amino-pyrrolidine-1-carboxylic acid tert-butyl ester the title compound is obtained as colorless solid.

reactant | 4-(2-cyclopropylmethoxy-4-fluoro-5-methoxy-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid | C1(CC1)COC1=C(C=C(C(=C1)F)OC)C=1C2=C(N=CN1)C(=CN2)C(=O)O | C18H16FN3O4
reactant | (R)-3-amino-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)N | C9H18N2O2
product | (R)-3-{[4-(2-Cyclopropylmethoxy-4-fluoro-5-methoxy-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=C(C(=C2)OC)F)OCC2CC2 | C27H32FN5O5
